US04789680
23 g (1 mol) of sodium are dissolved in 1 litre of ethyl alcohol and 101 g (1.2 mol) of cyanoacetamide are added thereto. 167.5 g (1 mol) of o-chlorobenzyl azide are added to this suspension at 40°-45° and the whole is heated for 2 hours under reflux. After cooling to 30°, 1000 ml of water are added, the precipitated product is filtered off with suction and then washed several times with warm water. After recrystallisation from dioxan and toluene, 5-amino-1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxamide is obtained in the form of colourless crystals having a melting point of 206°-207°.

reactant | sodium | 1 mol, 23 g | [Na] | Na
reactant | cyanoacetamide | 1.2 mol, 101 g | C(#N)CC(=O)N | C3H4N2O
reactant | o-chlorobenzyl azide | 1 mol, 167.5 g | ClC1=C(CN=[N+]=[N-])C=CC=C1 | C7H6ClN3
reactant | water | 1000 ml | O | H2O
solvent | ethyl alcohol | 1 litre | C(C)O | C2H6O
product | 5-amino-1-(o-chlorobenzyl)-1H-1,2,3-triazole-4-carboxamide | NC1=C(N=NN1CC1=C(C=CC=C1)Cl)C(=O)N | C10H10ClN5O
